US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 3-(3-chloropropyl)-1-cyclohexylmethyl-5-methyl-2,4(1H,3H)-pyrimidinedione gave 1-cyclohexylmethyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 130°-132° C.; Anal.: Calcd. for C27H37F3N4O3.HCl: C, 57.99; H, 6.88; N, 10.02%; Found: C, 58.01; H, 6.80; N, 9.87%;

reactant | 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 3-(3-chloropropyl)-1-cyclohexylmethyl-5-methyl-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(N(C=C(C1=O)C)CC1CCCCC1)=O | C15H23ClN2O2
product | 1-cyclohexylmethyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.C1(CCCCC1)CN1C(N(C(C(=C1)C)=O)CCCN1CCN(CC1)C1=C(C=CC=C1)OCC(F)(F)F)=O | InChI=1S/C27H37F3N4O3.ClH/c1-21-18-33(19-22-8-3-2-4-9-22)26(36)34(25(21)35)13-7-12-31-14-16-32(17-15-31)23-10-5-6-11-24(23)37-20-27(28,29)30;/h5-6,10-11,18,22H,2-4,7-9,12-17,19-20H2,1H3;1H
